US09278944B2
To a solution of 4-fluoro-3-hydroxybenzoic acid (2.0 g) in acetonitrile (100 mL)-N,N-dimethylformamide (50 mL)-water (2.0 mL) were added potassium carbonate (5.31 g) and 1-bromo-3-methoxypropane (4.32 g), and the mixture was heated to reflux at 90° C. for 18 hours. To the reaction mixture was added water under ice-cooling, and then the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=4/1→1/2 to give 3-methoxypropyl 4-fluoro-3-(3-methoxypropoxy)benzoate [REx(2-1)] (2.72 g) as a colorless oil.

reactant | 4-fluoro-3-hydroxybenzoic acid | 2.0 g | FC1=C(C=C(C(=O)O)C=C1)O | C7H5FO3
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 5.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-methoxypropane | 4.32 g | BrCCCOC | C4H9BrO
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | water | 2.0 mL | O | H2O
product | 3-methoxypropyl 4-fluoro-3-(3-methoxypropoxy)benzoate | 2.72 g | FC1=C(C=C(C(=O)OCCCOC)C=C1)OCCCOC | C15H21FO5
